US05948779
(B) 6-Methoxy-2-methylindanone
Alternatively, the same compound can be obtained by adding α-methyl-β-(p-methoxylphenyl)propionic acid (15 g.) to 170 g. of polyphosphoric acid at 50° and heating the mixture at 83-90° for two hours. The syrup is poured into iced water. The mixture is stirred for one-half hour, and is extracted with ether (3×). The etheral solution is washed with water (2×) and 5% NaHCO3 (5×) until all acidic material has been removed, and is dried over sodium sulfate. Evaporation of the solution gives 9.1 g. of the indanone as a pale yellow oil.

reactant | α-methyl-β-(p-methoxylphenyl)propionic acid | 15 g | CC(C(=O)O)CC1=CC=C(C=C1)OC | C11H14O3
reactant | indanone | C1(CCC2=CC=CC=C12)=O | C9H8O
solvent | water | O | H2O
product | 6-Methoxy-2-methylindanone | COC1=CC=C2CC(C(C2=C1)=O)C | C11H12O2
